US08304446B2
1,1-Dimethylethyl 3-{bis[(5-chloro-2-thienyl)sulfonyl]amino}-4-cyano-1H-indazole-1-carboxylate
1,1-Dimethylethyl 3-amino-4-cyano-1H-indazole-1-carboxylate (for a preparation see Intermediate 63) (4.3 g, 16.65 mmol) was dissolved in a mixture of dichloromethane (40 mL) and pyridine (40 mL). 5-Chloro-2-thiophenesulfonyl chloride (7.23 g, 33.3 mmol) was added to the solution and it was stirred at 45° C. under nitrogen for 60 h. LCMS showed approx 30% starting material remaining, so further quantity of 5-chloro-2-thiophenesulfonyl chloride (3.5 g, 16.12 mmol) was added to the reaction, and the mixture was stirred for 2 h. LCMS showed no change in product so the reaction was concentrated under vacuo. The residue was dissolved in DCM (200 mL) and washed 3 times with water (200 mL). The organic layer was dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue (10 g) was dissolved in DCM and loaded onto a 750 g silica column and purified by chromatography on the Companion system using a 0-25% ethyl acetate-DCM gradient. Appropriate fractions were evaporated in vacuo to give the title compound (5.8 g, 56%) as an orange solid. LCMS (System A) RT=1.45 min, ES+ve m/z 636/638 (M+NH4)+.

reactant | 1,1-Dimethylethyl 3-amino-4-cyano-1H-indazole-1-carboxylate | NC1=NN(C2=CC=CC(=C12)C#N)C(=O)OC(C)(C)C | C13H14N4O2
reactant | 5-Chloro-2-thiophenesulfonyl chloride | 33.3 mmol, 7.23 g | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
reactant | 5-chloro-2-thiophenesulfonyl chloride | 16.12 mmol, 3.5 g | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
solvent | DCM | 40 mL | ClCCl | CH2Cl2
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | 1,1-Dimethylethyl 3-{bis[(5-chloro-2-thienyl)sulfonyl]amino}-4-cyano-1H-indazole-1-carboxylate | 5.8 g, 56% | ClC1=CC=C(S1)S(=O)(=O)N(C1=NN(C2=CC=CC(=C12)C#N)C(=O)OC(C)(C)C)S(=O)(=O)C=1SC(=CC1)Cl | C21H16Cl2N4O6S4
